US04996320
To a 5 ml anhydrous acetonitrile solution containing 0.408 g (5.17 mmoles) of pyridine, 1.0 ml (5.17 mmoles) of trimethylsilyl trifluoromethanesulfonate as the XM reactant was added at -40° C. under stirring. To the resultant solution a mixed gas of fluorine and nitrogen (1:9), 10 minutes after the addition, was introduced at a rate of 15 ml/min. The amount of fluorine gas introduced was 15.5 mmoles. After the completion of the reaction, an amount of ether cooled to -60° C. was added to the solution to precipitate crystals which were filtered to give 0.99 g (yield: 78%) of N-fluoropyridinium trifluoromethanesulfonate.

reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | pyridine | 5.17 mmoles, 0.408 g | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilyl trifluoromethanesulfonate | 5.17 mmoles, 1.0 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | fluorine | FF | F2
solvent | ether | CCOCC | C4H10O
product | N-fluoropyridinium trifluoromethanesulfonate | 0.99 g, yield: 78% | FC(S(=O)(=O)[O-])(F)F.F[N+]1=CC=CC=C1 | InChI=1S/C5H5FN.CHF3O3S/c6-7-4-2-1-3-5-7;2-1(3,4)8(5,6)7/h1-5H;(H,5,6,7)/q+1;/p-1
